US09227962B2
To a solution of TFA (10 ml) was added tert-butyl 4-(2-oxoindolin-5-yl)piperidine-1-carboxylate (789 mg, 2.49 mmol) and stirred at room temperature for 30 min. The reaction mixture was concentrated. The residue was diluted with 1N HCl and extracted with CHCl3. The aqueous layer was added with 28% NH3 aq until pH 8 and extracted with CHCl3/EtOH (3/1). The organic layer was dried over Na2SO4 and concentrated to give 5-(piperidin-4-yl)indolin-2-one (409 mg, 76%).

reactant | tert-butyl 4-(2-oxoindolin-5-yl)piperidine-1-carboxylate | 2.49 mmol, 789 mg | O=C1NC2=CC=C(C=C2C1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H24N2O3
solvent | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(piperidin-4-yl)indolin-2-one | 409 mg, 76% | N1CCC(CC1)C=1C=C2CC(NC2=CC1)=O | C13H16N2O
